US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.090 g, 0.486 mmol) was reacted with 3-Azidomethyl-thiophene (0.081 g, 0.582 mmol) following the general procedure for click reactions outlined above to produce 4-[3-(1-Thiophen-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-propyl]-1H-imidazol-2-ylamine hydrochloride (0.0727 g, 46%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 7.61 (s, 1H), δ 7.24 (s, 1H), δ 7.23 (d, 1H), δ 6.87 (d, 1H), δ 6.29 (s, 1H), δ 2.54 (t, 2H), 2.33 (t, 2H), δ 1.75 (m, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 147.6, 147.4, 147.3, 136.1, 127.9, 127.0, 126.9, 124.2, 122.2, 109.1, 53.1, 27.9, 24.3; HRMS (ESI) calcd for C13H16N6S (M+) 289.1229. found 289.1234.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.486 mmol, 0.090 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | 3-Azidomethyl-thiophene | 0.582 mmol, 0.081 g | N(=[N+]=[N-])CC1=CSC=C1 | C5H5N3S
product | 4-[3-(1-Thiophen-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-propyl]-1H-imidazol-2-ylamine hydrochloride | 0.0727 g, 46% | Cl.S1C=C(C=C1)CN1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C13H16N6S.ClH/c14-13-15-6-11(16-13)2-1-3-12-8-19(18-17-12)7-10-4-5-20-9-10;/h4-6,8-9H,1-3,7H2,(H3,14,15,16);1H
